### PR TITLE
Add Erdős Problem 926 (Füredi's theorem on the extremal number of H_k), link the formal proof

### LINKED ISSUE #6217: Erdős Problem 926
### What is the Erdős problem?

https://www.erdosproblems.com/926

Let $k\geq 4$. Is it true that $\mathrm{ex}(n;H_k) \ll_k n^{3/2}$, where $H_k$ is the graph on vertices $x,y_1,\ldots,y_k,z_1,\ldots,z_{\binom{k}{2}}$, where $x$ is adjacent to all $y_i$ and each pair of $y_i,y_j$ is adjacent to a unique $z_i$?

Status: proved (Füredi). A formal proof exists in plby/lean-proofs (`Erdos926.erdos_926`, Codex and GPT-5.6 Sol). Related to #1021 (the same graph without $x$).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6217.

### What changed
Adds `FormalConjectures/ErdosProblems/926.lean` with the graph `H k` (apex `x` joined to `y₁, …, y_k`, each pair `y_i, y_j` joined to its own `z_{ij}`) and:
- `erdos_926` (`research solved`, `answer(True)`): `ex(n; H_k) ≪_k n^{3/2}` for `k ≥ 4` (Füredi [Fu91]). Linked to plby/lean-proofs `Erdos926.erdos_926` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_926.variants.aks` (`research solved`): the Alon–Krivelevich–Sudakov bound `≪ k n^{3/2}` with an absolute constant.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos926.erdos_926` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (the two graphs are equal):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics SimpleGraph

namespace Bridge926

/-- The two graphs `H k` and plby's `Hk k` are the same graph on the same vertex type. -/
lemma H_eq (k : ℕ) : Erdos926.H k = Erdos926Plby.Hk k := by
  ext x y
  rcases x with _ | _ | _ <;> rcases y with _ | _ | _ <;>
    simp [Erdos926.H, Erdos926Plby.Hk, Erdos926Plby.HAdj]

theorem erdos_926_bridge : type_of% Erdos926.erdos_926 := by
  show True ↔ _
  simp only [true_iff]
  intro k hk
  have := Erdos926Plby.erdos_926 k hk
  rw [H_eq]
  exact this

end Bridge926
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«926»` passes.

### CODE REVIEW

**Comment by Konamiu** [comment]
Note: #5981 (stantheman0128, 2026-09-13) also adds 926. This PR additionally links plby's verified proof with a bridge; happy to close in favour of #5981 or to port the link there, whichever the maintainers prefer.

File: FormalConjectures/ErdosProblems/926.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/926.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
